US04024143
Anhydrous 5-fluoro-6-hydroxy-5,6-dihydrouracil, 29.6 g, was stirred under reflux with hexamethyldisilazane, 113 g, for 20 hours. A clear solution was obtained. Distillation at 1.5 mmHg gave 43.6 g (80% yield, based on theory) of bis-trimethylsilyl-5-fluorouracil, boiling at 82°-85° C at 1.5 mm.

reactant | 5-fluoro-6-hydroxy-5,6-dihydrouracil | FC1C(NC(NC1O)=O)=O | C4H5FN2O3
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | bis-trimethylsilyl-5-fluorouracil | 43.6 g, 80% yield | C[Si](C)(C)C1=C(C(N(C(N1)=O)[Si](C)(C)C)=O)F | C10H19FN2O2Si2
